US07592373B2
3.32.e. 3-(3-chlorobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride
Prepared analogously to Example 3.8.a. from (3-chlorobiphenyl-4-yl)propynoic acid and 3-chloro-4-(2-diethylaminoethoxy)phenylamine. Yield: 0.35 g (68% of theory); melting point: 195° C.-200° C.; C27H26Cl2N2O2*HCl (M=517.87); calc.: molecular ion peak (M+H)+: 481/3/5 (Cl2); found: molecular ion peak (M+H)+: 481/3/5 (Cl2); Rf value: 0.6 (silica gel, dichloromethane/methanol/ammonia (90:10:0.1)).

reactant | (3-chlorobiphenyl-4-yl)propynoic acid | ClC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9ClO2
reactant | 3-chloro-4-(2-diethylaminoethoxy)phenylamine | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
reactant | Cl2 | ClCl | Cl2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(3-chlorobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride | Cl.ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Cl)=O | InChI=1S/C27H26Cl2N2O2.ClH/c1-3-31(4-2)16-17-33-26-14-13-23(19-25(26)29)30-27(32)15-12-21-10-11-22(18-24(21)28)20-8-6-5-7-9-20;/h5-11,13-14,18-19H,3-4,16-17H2,1-2H3,(H,30,32);1H
